US07282588B2
N-{3-[4-[3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-1-ethyl-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanesulfonamide
Following the procedure described for Intermediate 32 with N-{3-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanesulfonamide. Using this product crude and following the procedure described in Intermediate 100 using N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea provided the title product. ESMS [M+H]+: 684.4

reactant | N-{3-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanesulfonamide | BrC1=C2C(=NC=C1)N(C(=C2)C=2C=C(C=CC2)NS(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2 | C20H16BrN3O4S2
reactant | N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea | BrC=1C(=NN(C1)CC)C1=CC=C(C=C1)NC(N(C)C)=O | C14H17BrN4O
product | N-{3-[4-[3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-1-ethyl-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanesulfonamide | CN(C(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C(=C2)C=2C=C(C=CC2)NS(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2)CC)C | C34H33N7O5S2
